US07534802B2
N-(3,5-Dimethylphenyl)-2-(2-n-propylaminocarbonylpyridin-4-yl-methylthio)pyridine-3-carboxamide (Compound No. 7-1)
N,N-Diisopropylethylamine (40 μL, 0.23 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (51 mg, 0.14 mmol) were added to a solution of 2-(2-carboxypyridine-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (42 mg, 0.11 mmol, Compound No. 6-1) and n-propylamine (34 μL, 0.41 mmol) in N,N-dimethylformamide (1 mL) at room temperature, this mixture was stirred at 40° C. for 3 hours. The reaction mixture was diluted with ethyl acetate (20 mL), then the ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution (40 mL) and brine (30 mL) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was washed with diethyl ether. This solid was dried at 50° C. under reduced pressure to give 21 mg of the target compound as a white solid. (Yield 46%)

reactant | N,N-Diisopropylethylamine | 0.23 mmol, 40 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.14 mmol, 51 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-(2-carboxypyridine-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | 0.11 mmol, 42 mg | C(=O)(O)C1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C21H19N3O3S
reactant | n-propylamine | 0.41 mmol, 34 μL | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dimethylphenyl)-2-(2-n-propylaminocarbonylpyridin-4-yl-methylthio)pyridine-3-carboxamide | 21 mg, Yield 46% | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=CC(=NC=C1)C(=O)NCCC | C24H26N4O2S
